US07279580B2
3-Bromo-8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridine (0.10 g, 0.36 mmol) and 3,2′-difluoro-5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)biphenyl-2-carbonitrile (0.16 g, 0.47 mmol) were coupled following the procedure in Example 1 to afford 3,2′-difluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile as a white amorphous solid (110 mg, 74%): δH (360 MHz, CDCl3) 1.73 (6H, s), 2.10 (1H, s), 7.21 (1H, dd, J 7 and 7), 7.30 (1H, dd, J 8 and 8), 7.38-7.44 (2H, m), 7.61-7.72 (4H, m), 8.23 (1H, d, J 7); m/z (ES+) 408 (M++H).

reactant | 3-Bromo-8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridine | 0.36 mmol, 0.10 g | BrC1=CN=C2N1C=CC(=C2F)C(C)(C)O | C10H10BrFN2O
reactant | 3,2′-difluoro-5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)biphenyl-2-carbonitrile | 0.47 mmol, 0.16 g | FC1=C(C(=CC=C1)C1=C(C=CC(=C1)B1OCC(CO1)(C)C)F)C#N | C18H16BF2NO2
product | 3,2′-difluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile | 110 mg, 74% | FC1=C(C(=CC=C1)C1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)F)C#N | C23H16F3N3O
